US08030311B2
N-(5-methyl-2-phenyl-2H-pyrazol-3-yl)-2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetamide
The title compound is prepared as described in Example 28 but using 2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetic acid and 5-methyl-2-phenyl-2H-pyrazol-3-ylamine. Title compound: ES-MS: 409.50 [M+H]+; tR=1.21 min (System 3).

reactant | 2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)CC(=O)O | C14H11N3O2
reactant | 5-methyl-2-phenyl-2H-pyrazol-3-ylamine | CC=1C=C(N(N1)C1=CC=CC=C1)N | C10H11N3
product | N-(5-methyl-2-phenyl-2H-pyrazol-3-yl)-2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetamide | CC=1C=C(N(N1)C1=CC=CC=C1)NC(CC1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)=O | C24H20N6O
